US08729061B2
(2S,3S)-3-Amino-N-ethyl-2-hydroxyhexanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with (S)-2-aminopentan-1-ol in the first step (A1), and using isocyanoethane in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | (S)-2-aminopentan-1-ol | N[C@H](CO)CCC | C5H13NO
reactant | isocyanoethane | [N+](#[C-])CC | C3H5N
product | (2S,3S)-3-Amino-N-ethyl-2-hydroxyhexanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NCC)O)CCC | InChI=1S/C8H18N2O2.2ClH/c1-3-5-6(9)7(11)8(12)10-4-2;;/h6-7,11H,3-5,9H2,1-2H3,(H,10,12);2*1H/t6-,7-;;/m0../s1
